US09428452B2
2-{[4-(chlorosulfonyl)phenyl]oxy}ethyl 2-propenoate
A solution of 2-(phenyloxy)ethyl 2-propenoate (5 g, 26.0 mmol) in dichloromethane (50 mL), was cooled to 0° C. Chlorosulfonic acid (5.21 mL, 78 mmol) was added dropwise over 15 minutes at 0° C. then the mixture was allowed to warm to room temperate over 30 minutes. The reaction mixture was stirred overnight (16 hours) at room temperature. The solution was then poured onto ice and extracted with dichloromethane (3×50 mL). Resulting emulsion was diluted with ethyl acetate (200 mL) and brine (50 mL) in order to achieve separation of phases. The aqueous layer was further extracted with ethyl acetate (100 mL). The combined organic fractions were dried with magnesium sulphate then evaporated in vacuo to give an oily solid, which was dried under high vacuum overnight. After drying, a sticky solid was isolated (3.2 g) and this was taken on to the next step without further purification. LCMS [LCMS1] Rt 0.47 min, m/z (ES−) 272 (M−Cl+OH).

reactant | 2-(phenyloxy)ethyl 2-propenoate | 26.0 mmol, 5 g | C(C=C)(=O)OCCOC1=CC=CC=C1 | C11H12O3
reactant | Chlorosulfonic acid | 78 mmol, 5.21 mL | ClS(=O)(=O)O | ClHO3S
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | brine | 50 mL | [Cl-].[Na+].O
product | 2-{[4-(chlorosulfonyl)phenyl]oxy}ethyl 2-propenoate | C(C=C)(=O)OCCOC1=CC=C(C=C1)S(=O)(=O)Cl | C11H11ClO5S
